US07071175B1
To a vigorously stirred suspensin of copper(I)cyanide (1.71 g, 19.06 mmol) in dry THF (18 mL) was added a solution of phenylmagnesium bromide (12.7 mL 3 M in ether, 38.11 mmol) at 0° C. under argon. The mixture was allowed to warm to room temperature, giving a dark brown solution. After 150 minutes a solution of 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester (1.74 g, 4.76 mmol) in dry THF (19 mL) was added at 0° C. The mixture was left stirring for 3 days then aqueous ammonium chloride was added. The aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were washed with brine and dried. Removal of the solvent in vacuo gave a residue, which was suspended in hexane. Filtration of the crystals gave 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid diethyl ester (1.85 g, 88%).

reactant | copper(I)cyanide | 19.06 mmol, 1.71 g | [Cu]C#N
reactant | phenylmagnesium bromide | 38.11 mmol, 3 M, 12.7 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethylene)-malonic acid diethyl ester | 4.76 mmol, 1.74 g | C(C)OC(C(C(=O)OCC)=CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H24N2O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 19 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-[(6-tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-malonic acid diethyl ester | 1.85 g, 88% | C(C)OC(C(C(=O)OCC)C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C24H30N2O6
